US06756498B2
ii) 1-(2-Chloro-4-fluorophenyl)-2-(5-trifluoromethyl-2-pyridinyl)ethanone Oxime
A reaction vessel was charged with 1-(2-chloro-4-fluorophenyl)-2-(5-trifluoromethyl-2-pyridinyl)ethanone (6 g, 18.9 mmol), hydroxylamine (2.63 g, 37.8 mmol), triethylamine (5.3 m 37.8 mmol) and ethanol (60 ml). The reaction mixture was heated to reflux with stirring for 24 hrs. It was then cooled to room temperature, silica gel (about 25 g) was added and the mixture concentrated to dryness. Purification via column chromatography on silica eluting with diethylether-cyclohexane (3:7) and concentration of the appropriate fractions afforded an oil which solidified on standing. Trituration with cyclohexane containing a little diethylether afforded a solid which was removed by filtration and washed with cyclohexane to provide 2.27 g (28%) of the title compound.

reactant | 1-(2-chloro-4-fluorophenyl)-2-(5-trifluoromethyl-2-pyridinyl)ethanone | 18.9 mmol, 6 g | ClC1=C(C=CC(=C1)F)C(CC1=NC=C(C=C1)C(F)(F)F)=O | C14H8ClF4NO
reactant | hydroxylamine | 37.8 mmol, 2.63 g | NO | H3NO
reactant | triethylamine | 37.8 mmol | C(C)N(CC)CC | C6H15N
reactant | ethanol | 60 ml | C(C)O | C2H6O
solvent | diethylether | C(C)OCC | C4H10O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 1-(2-Chloro-4-fluorophenyl)-2-(5-trifluoromethyl-2-pyridinyl)ethanone Oxime | 2.27 g, 28% | ClC1=C(C=CC(=C1)F)C(CC1=NC=C(C=C1)C(F)(F)F)=NO | C14H9ClF4N2O
